US06060459
To a 100 mL flask was added deoxyinosine (1.5 g, 5.95 mmol) and N,N-dimethyl-4-aminopyridine (0.036 g, 0.297 mmol). N,N-dimethylformamide (35 mL) was added via cannula with stirring, the flask was purged with argon gas and pyridine (15 mL) was added via cannula. The slurry was allowed to cool 10 min. in an ice/NaCl bath and palmitoyl chloride (2.0 mL, 6.54 mmol) was added dropwise. The mixture was allowed to stir while it slowly warmed to 25° C. After 18 h, the mixture was poured into 300 mL of ice-cold 0.1 M sodium bicarbonate solution giving a white solid which was isolated by suction filtration, washed with 100 mL water, and dried overnight in a vacuum desiccator giving 2.72 g (93%) of palmitoyldeoxyinosine.

reactant | deoxyinosine | 5.95 mmol, 1.5 g | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C=NC=2C(O)=NC=NC12 | C10H12N4O4
reactant | palmitoyl chloride | 6.54 mmol, 2.0 mL | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
catalyst | N,N-dimethyl-4-aminopyridine | 0.297 mmol, 0.036 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | N,N-dimethylformamide | 35 mL | CN(C=O)C | C3H7NO
product | palmitoyldeoxyinosine | 2.72 g, 93% | C(CCCCCCCCCCCCCCC)(=O)[C@@]1(C[C@H](O)[C@@H](CO)O1)N1C=NC=2C(O)=NC=NC12 | C26H42N4O5
